US06498166B1
i) 2-(4-fluorophenyl)-3-[4-(methylsulfanyl)phenyl]pyrazolo[1,5-a]pyridine
By using 3-bromo-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridine (4.0 g, 13.8 mmol) and 4-methylsulphanyl-phenylboronic acid (3.07 g, 1.83 mmol) the title compound was obtained as a white solid (2.29 g 50%) in the manner described in Example 2. MH+: 335; NMR: (CDCl3) δ 2.53 (3H, s) 6.80 (1H, t) 7.00 (2H, t) 7.15 (1H, t) 7.25 (2H, d) 7.30 (1H, d) 7.50 (2H, d) 7.60 (2H, m) 8.50 (1H, d).

reactant | 3-bromo-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridine | 13.8 mmol, 4.0 g | BrC=1C(=NN2C1C=CC=C2)C2=CC=C(C=C2)F | C13H8BrFN2
reactant | 4-methylsulphanyl-phenylboronic acid | 1.83 mmol, 3.07 g | CSC1=CC=C(C=C1)B(O)O | C7H9BO2S
product | 2-(4-fluorophenyl)-3-[4-(methylsulfanyl)phenyl]pyrazolo[1,5-a]pyridine | FC1=CC=C(C=C1)C1=NN2C(C=CC=C2)=C1C1=CC=C(C=C1)SC | C20H15FN2S
